US07795262B2
Step 2. Preparation of 2-[6-(4-acetyl-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-1-(4-cyclobutyl-piperazin-1-yl)-ethanone
To a stirred solution of 1-[4-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-phenyl]-ethanone (216 mg, 0.86 mmol) in acetonitrile (5.0 ml) is added 2-chloro-(4-cyclobutyl-piperazine)-acetamide (186 mg, 0.86 mmol, 1.0 eq.), K2CO3 (238 mg, 1.72 mmol, 2.0 eq.) and NaI (50 mg). The resulting mixture is stirred at 50° C. overnight. Water (10.0 ml) is added to quench the reaction, and the acetonitrile is evaporated. The residue is extracted with DCM (10 ml×3). The combined organic phase is dried over sodium sulfate and concentrated. The residue is purified by PTLC (EtOAc/4% TEA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 8.01 (2H, d), 7.66 (2H, d), 7.36˜7.44 (2H, m), 7.12 (1H, d), 3.74 (2H, s), 3.60˜3.70 (4H, m), 3.38 (2H, s), 2.97 (2H, t), 2.83 (2H, t), 2.66 (1H, m), 2.64 (3H, s), 2.29 (4H, m), 1.60˜2.08 (6H); MS (+VE) m/z 432.2 (M++1).

reactant | 1-[4-(1,2,3,4-tetrahydro-isoquinolin-6-yl)-phenyl]-ethanone | 0.86 mmol, 216 mg | C1NCCC2=CC(=CC=C12)C1=CC=C(C=C1)C(C)=O | C17H17NO
reactant | 2-chloro-(4-cyclobutyl-piperazine) acetamide | 0.86 mmol, 186 mg, 1.0 eq. | ClC1NCCN(C1)C1CCC1.C(C)(=O)N
reactant | K2CO3 | 1.72 mmol, 238 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 50 mg | [Na+].[I-]
solvent | acetonitrile | 5.0 ml | C(C)#N | C2H3N
solvent | Water | 10.0 ml | O | H2O
product | 2-[6-(4-acetyl-phenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-1-(4-cyclobutyl-piperazin-1-yl)-ethanone | C(C)(=O)C1=CC=C(C=C1)C=1C=C2CCN(CC2=CC1)CC(=O)N1CCN(CC1)C1CCC1 | C27H33N3O2
